US07129238B2
(RS)-(2-Chloro-phenyl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-2-(2-chloro-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide. Light yellow oil. MS 315.1 ([M+H]+)

reactant | (RS)-(2-Chloro-phenyl)-methoxy-acetic acid | ClC1=C(C=CC=C1)C(C(=O)O)OC | C9H9ClO3
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-2-(2-chloro-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide | ClC1=C(C=CC=C1)C(C(=O)NCC1=CC=C(C=C1)C#N)OC | C17H15ClN2O2
